Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
oxycodone
 
Attending: ___.
 
Chief Complaint:
DOE, anemia
 
Major Surgical or Invasive Procedure:
EGD with biopsies ___

 
History of Present Illness:
Ms. ___ is a ___ woman with history of anemia who 
presents with worsening dyspnea on exertion, found to have 
anemia.

The patient reports that over the last 4 months she has noticed 
progressively worsening dyspnea on exertion. She denies any 
dyspnea at rest. No cough. No chest pain at rest or with 
exertion. No orthopnea or peripheral edema. No melena, 
hematochezia, hematuria, hemoptysis, hematemesis. She reports 
that her dyspnea has progressed over the past 4 months, and it 
had become difficult to walk the short distance to the bus stop 
from her home. She presented to her PCP, where she was found to 
have acute on chronic anemia, and referred to the ED for further 
management.

In the ED, vitals: 97.3 93 189/73 20 100% RA 
Labs: WBC 11.8, Hb 6.7, plt 527, INR 1.1; BMP, LFTs wnl; trop 
<0.01
Imaging:
- CXR: Cardiomegaly without superimposed acute cardiopulmonary 
process.
- EKG: NSR, NA/NI, no acute ischemic changes

On arrival to the floor, the patient reports that she feels well 
and has no acute complaints.

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
- Anemia
- Hypertension
- DMII
- OSA
- S/p hysterectomy
- S/p CCY
 
Social History:
___
Family History:
Father with hypertension.

 
Physical Exam:
Admission Physical:
====================
VITALS: 98.1 156/70 85 18 99 Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Pleasant, appropriate affect

Discharge Physical:
====================
 
Pertinent Results:
Admission Labs:
===============
___ 08:30PM BLOOD WBC-11.8* RBC-4.21 Hgb-6.7* Hct-26.9* 
MCV-64* MCH-15.9* MCHC-24.9* RDW-20.3* RDWSD-45.9 Plt ___
___ 08:30PM BLOOD Neuts-69.5 Lymphs-18.5* Monos-9.6 Eos-1.8 
Baso-0.3 NRBC-0.2* Im ___ AbsNeut-8.22* AbsLymp-2.19 
AbsMono-1.14* AbsEos-0.21 AbsBaso-0.03
___ 08:30PM BLOOD ___ PTT-26.9 ___
___ 08:30PM BLOOD Ret Aut-2.0 Abs Ret-0.09
___ 08:30PM BLOOD Glucose-118* UreaN-13 Creat-0.9 Na-141 
K-4.6 Cl-105 HCO3-23 AnGap-13
___ 08:30PM BLOOD ALT-11 AST-15 LD(LDH)-233 AlkPhos-105 
TotBili-0.4
___ 08:30PM BLOOD cTropnT-<0.01
___ 08:30PM BLOOD Albumin-4.1 Iron-16*
___ 08:30PM BLOOD calTIBC-477* ___ Ferritn-4.7* 
TRF-367*

Imaging:
=========
- Colonoscopy (___):
Impression: Grade 1 internal hemorrhoids
Diverticulosis of the proximal ascending colon
Previous ileo-colonic anastomosis of the proximal ascending 
colon
The prep was fair in a few areas
Otherwise normal colonoscopy to surgical anastomosis

- CXR (___): Cardiomegaly without superimposed acute
cardiopulmonary process.

- EKG (___): NSR, NA/NI, no acute ischemic changes

- TTE ___: Mild symmetric LVH with normal cavity size and 
regional/global biventricular systolic function. Mild PA 
systolic HTN. No significant pericardial effusion

- EGD (___): Normal esophagus, stomach and duodenum. 
Biopsies taken from stomach and duodenum

Discharge Labs:
=================
 
Brief Hospital Course:
Ms. ___ is a ___ woman with 0history of anemia 
who presents with worsening dyspnea on exertion, found to have 
severe iron deficiency anemia.

ACUTE/ACTIVE PROBLEMS:
# Severe iron deficiency anemia
# Dyspnea on exertion: Patient presented with dyspnea on 
exertion over several months found to have worsening of her 
chronic microcytic anemia of unclear duration (last CBC with hgb 
of 8.1 in ___. Based on her report, suspect that this has
been a slow drop rather than acute blood loss anemia. Labs 
confirmed severe iron deficiency anemia with differential 
including poor PO intake of iron, poor iron absorption (with 
report of ileo-colonic anastomosis on ___ ___ or blood loss 
from GI tract (no other evidence of bleeding). She had no s/s of 
bleeding while in house. Her hgb dropped to 5.8 on HD2 however 
she was hemodynamically stable and given her religious beliefs 
(Jehovah's witness), she declined blood transfusion. She was 
treated with IV ferric gluconate 125mg x4 days. Her hemoglobin 
improved to 7.6 on discharge. EGD showed no e/o bleeding. GI 
recommended outpatient follow-up with GI for repeat colonoscopy 
and capsule study. She was discharged on oral iron. 

# Cardiomegaly: Noted on CXR on admission to have cardiomegaly, 
not noted on CXR in atrius records from ___. TTE showed mild 
symmetric LVH and mild pulmonary artery systolic hypertension. 

CHRONIC/STABLE PROBLEMS:
# OSA: Not on CPAP at home. However, patient used CPAP while 
inpatient and wants to use it at home (apparently an insurance 
issue.) Couldn't arrange it before discharge given discharging 
on long weekend, but recommended she talk to her PCP about this.
# HTN: Not on any medications
# DMII: Last A1c 6.6%; not on any medications

Transitional issues:
=======================
[ ]Please have patient f/u with GI as outpatient for repeat 
colonoscopy and capsule study per inpatient GI recs
[ ]Arrange for home CPAP
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Severe iron deficiency anemia
Dyspnea on exertion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with shortness of breath and 
anemia. You were found to have very significant iron deficiency 
anemia. You had an endoscopy which did not show any evidence of 
bleeding. You were given IV iron to help your body start to make 
more blood. After discharge, you will need to take oral iron to 
help your body continue to make blood. It is very important that 
you take this medication as prescribed. 

In terms of your shortness of breath, we think this is related 
to your low blood counts and will improve as your blood counts 
increase. 

Because of your anemia, you should follow-up with a 
gastroenterologist after discharge to consider a repeat 
colonoscopy and a capsule study. Your primary care doctor can 
help to arrange this after discharge. 

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___